US07645771B2
8-Benzyl-8-azabicyclo[3.2.1]octan-3-amine
To 3.9 g (16.9 mmol) 8-benzyl-8-azabicyclo[3.2.1]octan-3-one oxime was added 3.5 g of sodium in 200 ml of pentanol by portion over 1 hr. The mixture was refluxed for 3 hrs and cooled to ambient temperature. The reaction mixture was quenched with water and extracted with 6 N HCl. The aqueous layer was basified using NaOH pellets and extracted with EtOAc. The organic layer was dried over magnesium sulfate and the solvent was removed to afford 2.9 g (80%) of crude product as a brown oil.

reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one oxime | 16.9 mmol, 3.9 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=NO | C14H18N2O
reactant | sodium | 3.5 g | [Na] | Na
solvent | pentanol | 200 ml | C(CCCC)O | C5H12O
product | 8-Benzyl-8-azabicyclo[3.2.1]octan-3-amine | 2.9 g, 80% | C(C1=CC=CC=C1)N1C2CC(CC1CC2)N | C14H20N2
